US07041826B2
15.3 g of sodium hydride (65% dispersion in mineral oil, 0.414 moles) was suspended in 250 ml of N,N-dimethylformamide at 10° C. To this suspension, 100 g of 4-benzyl-2-oxo-3-phenylpiperazine (0.376 moles) was added portionwise over a period of 30 min and stirred for 15 min. A solution of 64 g of methyl iodide (0.45 moles) in 50 ml of N,N-dimethylformamide was added slowly in 45 min maintaining the temperature below 25° C. and maintained for 1 hour. After completion of the reaction, mass was poured slowly in 1000 ml of cold water (15° C.). The product was extracted with toluene (1×500 ml, 1×300 ml) from aqueous phase. Toluene layer was washed with water (2×200 ml) and concentrated. To the residue, 250 ml of cyclohexane was added and cooled to 10° C. with stirring. Filtered the product and washed with precooled cyclohexane to obtain 98.5 g of 4-benzyl-1-methyl-2-oxo-3-phenylpiperazine product (yield: 93.8%, purity: 99.15 by HPLC)

reactant | sodium hydride | 0.414 moles, 15.3 g | [H-].[Na+]
reactant | 4-benzyl-2-oxo-3-phenylpiperazine | 0.376 moles, 100 g | C(C1=CC=CC=C1)N1C(C(NCC1)=O)C1=CC=CC=C1 | C17H18N2O
reactant | methyl iodide | 0.45 moles, 64 g | CI | CH3I
solvent | N,N-dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 1000 ml | O | H2O
product | 4-benzyl-1-methyl-2-oxo-3-phenylpiperazine | 98.5 g, yield: 93.8% | C(C1=CC=CC=C1)N1C(C(N(CC1)C)=O)C1=CC=CC=C1 | C18H20N2O
